US06265415B1
Synthesis of 6-bromo-2,3-dimethyl-8-(2,6-dimethylbenzylamino)imidazo[1,2-a]pyridine
A mixture of 8-amino-6-bromo-2,3-dimethylimidazo[1,2-a]pyridine (1.2 g, 5.0 mmol), 2,6-dimethylbenzylchloride (0.772 g, 5.0 mmol), sodium carbonate (0.8 g), sodium iodide (0.2 g) and acetone (45 ml) was stirred overnight. More 2,3-dimethylbenzylchloride (0.285 g) was added and the reaction mixture was refluxed for 5 h. After addition of acetone the reaction mixture was filtered. The solvent was removed in vacuo and the residue was dissolved in CH2Cl2, washed with NaHCO3, dried over Na2SO4 and evaporated. The crude product dissolved in ethyl acetate and petroleum ether was added. Filtration and evaporation of the solvent gave a residue which was recrystallized from ethyl acetate to give 1.45 g of the title compound.

reactant | 8-amino-6-bromo-2,3-dimethylimidazo[1,2-a]pyridine | 5.0 mmol, 1.2 g | NC=1C=2N(C=C(C1)Br)C(=C(N2)C)C | C9H10BrN3
reactant | 2,6-dimethylbenzylchloride | 5.0 mmol, 0.772 g | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
reactant | sodium carbonate | 0.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.2 g | [I-].[Na+]
reactant | 2,3-dimethylbenzylchloride | 0.285 g | CC1=C(CCl)C=CC=C1C | C9H11Cl
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 45 ml | CC(=O)C | C3H6O
product | 6-bromo-2,3-dimethyl-8-(2,6-dimethylbenzylamino)imidazo[1,2-a]pyridine | 1.45 g | BrC=1C=C(C=2N(C1)C(=C(N2)C)C)NCC2=C(C=CC=C2C)C | C18H20BrN3
